US07220771B2
SYNTHESIS OF N-[3-(5-(2H-1,2,3,4-TETRAZOL-5-YL)(1H-INDAZOL-3-YL))-PHENYL]-2-METHOXYACETAMIDE
N-[3-(5-(2H-1,2,3,4-Tetrazol-5-yl)(1H-indazol-3-yl))phenyl]-2-methoxyacetamide 2-Methoxy-N-(3-{1-perhydro-2H-pyran-2-yl-5-[2-(triphenylmethyl)(1,2,3,4-tetrazol-5-yl)](1H-indazol-3-yl)}phenyl)acetamide was dissolved in 3 mL of 4.0 N hydrogen chloride solution in dioxane. Aqueous hydrogen chloride solution (1.0 mL, 6.0 N) was added and the solution was stirred at room temperature for 48 hours. The pH of the reaction mixture was made basic using 2.0 N aqueous sodium hydroxide and organic impurities were extracted with ethyl acetate. The pH of the aqueous phase was then adjusted to 4–5 using aqueous hydrochloric acid and the crude compound was extracted with ethyl acetate. The title compound was purified by preparative HPLC (15–80% acetonitrile in water) (0.025 g, 48% yield): 1H NMR (DMSO-d6) δ 13.6 (s, 1H), 9.9 (s, 1H), 8.8 (s, 1H), 8.4 (s, 1H), 8.07 (d, 1H), 7.82 (d, 1H), 7.74 (d, 1H), 7.5 (t, 1H), 5.7 (s, 2H), 4.4 (s, 3H); ES-MS (m/z) 350 [M+H]+.

reactant | N-[3-(5-(2H-1,2,3,4-Tetrazol-5-yl)(1H-indazol-3-yl))phenyl]-2-methoxyacetamide 2-Methoxy-N-(3-{1-perhydro-2H-pyran-2-yl-5-[2-(triphenylmethyl)(1,2,3,4-tetrazol-5-yl)](1H-indazol-3-yl)}phenyl)acetamide | COCC(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1.N=1NN=NC1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(COC)=O
reactant | sodium hydroxide | 2.0 N | [OH-].[Na+]
solvent | hydrogen chloride | 4.0 N, 3 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 6.0 N, 1.0 mL | Cl | ClH
product | N-[3-(5-(2H-1,2,3,4-TETRAZOL-5-YL)(1H-INDAZOL-3-YL))-PHENYL]-2-METHOXYACETAMIDE | 48% yield | N=1NN=NC1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(COC)=O | C17H15N7O2
